US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(4-methylpiperazin-1-yl)benzamido)-4-phenylbenzoate (0.26 g) in methanol (2.6 mL) and ethyl acetate (1.3 mL), 10% palladium-carbon (0.26 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Chloroform was added to the reaction mixture, and the insoluble substance was removed by filtration. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-90% chloroform/methanol] to obtain 0.13 g of tert-butyl 2-(2-hydroxy-5-(4-methylpiperazin-1-yl)benzamido)-4-phenylbenzoate.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(4-methylpiperazin-1-yl)benzamido)-4-phenylbenzoate | 0.26 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCN(CC1)C | C36H39N3O4
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2.6 mL | CO | CH4O
solvent | ethyl acetate | 1.3 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.26 g | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(4-methylpiperazin-1-yl)benzamido)-4-phenylbenzoate | 0.13 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCN(CC1)C | C29H33N3O4
